US07354917B2
(i) N-Benzyl-N-(2-hydroxy-ethyl)-acetamide
Acetyl chloride (0.858 g, 10.8 mmol) was added drop by drop to a solution of N-benzyl ethanol amine (1.5 g, 9.9 mmol) and triethylamine (1.5 g, 14.9 mmol) in dry dichloromethane (20 ml) at 0° C. under nitrogen atmosphere and stirred at room temperature overnight. The reaction was quenched with water and extracted with dichloromethane. The organic layer was washed with water, 10% aq. NaHCO3, brine and dried over sodium sulfate. Solvent evaporation under reduced pressure, followed by column chromatography over silica gel using 5% methanol in dichloromethane as eluent afforded 0.68 g of the desired product as an oil.

reactant | Acetyl chloride | 10.8 mmol, 0.858 g | C(C)(=O)Cl | C2H3ClO
reactant | N-benzyl ethanol amine | 9.9 mmol, 1.5 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 14.9 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-Benzyl-N-(2-hydroxy-ethyl)-acetamide | 0.68 g | C(C1=CC=CC=C1)N(C(C)=O)CCO | C11H15NO2
